US08623889B2
To a solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (61.7 mg, 0.244 mmol) in N,N-dimethylformamide (2.0 mL, 26 mmol) at room temperature was added sodium hydride (20.1 mg, 0.502 mmol, 60% dispersion in mineral oil). The reaction mixture was stirred at room temperature for 30 minutes, and then cyclopropylmethyl bromide (24.0 uL, 0.247 mmol) was added and the reaction mixture was heated at 50° C. for 3 hours. The reaction mixture was cooled to room temperature and sodium hydride (66 mg, 60% dispersion in mineral oil) was added, followed by cyclopropylmethyl bromide (30.0 uL). The reaction mixture was then stirred at room temperature overnight. The mixture was then partitioned between ethyl acetate and water, and the organic layer was washed with water and brine, dried over MgSO4, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-50% ethyl acetate in dichloromethane) to yield 11.8 mg (16%) of N-(cyclopropylmethyl)-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine. LCMS (ESI): RT (min)=4.807, M+H=307.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 8.89 (s, 1H), 7.77 (s, 1H), 7.61 (d, J=8.7 Hz, 1H), 7.47 (d, J=8.7 Hz, 1H), 7.40-7.30 (m, 1H), 7.17-7.06 (m, 2H), 6.64 (s, 1H), 6.54 (t, J=5.3 Hz, 1H), 3.16 (t, J=6.2 Hz, 2H), 2.25 (s, 3H), 1.12 (dd, J=12.4, 6.7 Hz, 1H), 0.46 (d, J=6.8 Hz, 2H), 0.26 (d, J=4.3 Hz, 2H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.244 mmol, 61.7 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | N,N-dimethylformamide | 26 mmol, 2.0 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.502 mmol, 20.1 mg | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 0.247 mmol, 24.0 uL | C1(CC1)CBr | C4H7Br
reactant | sodium hydride | 66 mg | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 30.0 uL | C1(CC1)CBr | C4H7Br
product | N-(cyclopropylmethyl)-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 11.8 mg, 16% | C1(CC1)CNC=1N=CC2=CC(=CC=C2C1)C1=C(C=CC(=C1)F)C | C20H19FN2
